US04393059
Triethylamine (2.37 g.), dimethylaniline (7.12 g.) and trimethylsilyl chloride (3.93 g.) were added to a stirred suspension of 4-nitrobenzyl 7-(2-phenylacetamido)-3-hydroxy-3-cephem-4-carboxylate (10 g.) in methylene chloride (200 ml.) in turn, and the solution was stirred at room temperature for an hour. Phosphorus pentachloride (4.88 g.) was added to the solution at -30° to -25° C. and stirred at -25° to -20° C. for 3 hours. Methanol (42 ml.) was added to the solution at -25° to -20° C., and stirred for an hour. To the solution was added water (35 ml.) at -25° to -20° C., and the solution was stirred at room temperature. The precipitates were collected by filtration, washed with methylene chloride and diethyl ether in turn, and dried to give 4-nitrobenzyl 7-amino-3-hydroxy-3-cephem-4-carboxylate (5.2 g.), mp 148° C. (dec.).

reactant | dimethylaniline | 7.12 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | trimethylsilyl chloride | 3.93 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 4-nitrobenzyl 7-(2-phenylacetamido)-3-hydroxy-3-cephem-4-carboxylate | 10 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H19N3O7S
reactant | Phosphorus pentachloride | 4.88 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | water | 35 ml | O | H2O
solvent | Methanol | 42 ml | CO | CH4O
solvent | Triethylamine | 2.37 g | C(C)N(CC)CC | C6H15N
product | 4-nitrobenzyl 7-amino-3-hydroxy-3-cephem-4-carboxylate | 5.2 g | NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O6S
